US05547962
5-Amino-7-((S)-7-tert-butoxycarbonylamino-5-azaspiro[2.4]hept-5-yl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid
A mixture of 20.0 g of 5-amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid, 28.9 g of (S)-7-tert-butoxycarbonylamino-5-azaspiro[2.4]heptane ([α]D20 -47.2° (c=1, MeOH)) and 80 ml of dimethyl sulfoxide was heated at 100° C. for 36 hours. The reaction mixture was poured into 500 ml of ice water. The deposited crystals were collected by filtration, washed with water and isopropanol, and then recrystallized from a mixture of methylene chloride and methanol to give 14.7 g of the desired compound, which was identified as the compound of Example 19.

reactant | 5-amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid | 20.0 g | NC1=C2C(C(=CN(C2=C(C(=C1F)F)C)C1CC1)C(=O)O)=O | C14H12F2N2O3
reactant | (S)-7-tert-butoxycarbonylamino-5-azaspiro[2.4]heptane | 28.9 g | C(C)(C)(C)OC(=O)N[C@@H]1CNCC12CC2 | C11H20N2O2
solvent | dimethyl sulfoxide | 80 ml | CS(=O)C | C2H6OS
product | 5-Amino-7-((S)-7-tert-butoxycarbonylamino-5-azaspiro[2.4]hept-5-yl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid | 14.7 g | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC2(CC2)[C@@H](C1)NC(=O)OC(C)(C)C)C)C1CC1)C(=O)O)=O | C25H31FN4O5
